US04873236
4,9-Dihydro-4-[[[2-[4-[4-(piperidin-l-yl)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 109 from 4-[[[2-bromo-ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 4-[4-(piperidin-l-yl)butyl]piperidine in a yield of 20% of theory. Colourless crystals, m.p. 186°-187° C.

reactant | 4-[[[2-bromo-ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | BrCCNC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C15H14BrN3O2S
reactant | 4-[4-(piperidin-l-yl)butyl]piperidine | N1(CCCCC1)CCCCC1CCNCC1 | C14H28N2
product | 4,9-Dihydro-4-[[[2-[4-[4-(piperidin-l-yl)butyl]-piperidin-l-yl]ethyl]amino]carbonyl]-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 20% | N1(CCCCC1)CCCCC1CCN(CC1)CCNC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C29H41N5O2S
